US06706763B1
To 1.00 g of 5-(2-bromo-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide were added 80 ml of tetrahydrofuran and 368 mg of potassium thioacetate under an atmosphere of argon, and the mixture was stirred for 6 hours at room temperature. Solvent was distilled off under reduced pressure, and ethyl acetate was added to the residue, which was washed with water and saturated brine in sequence and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue obtained was crystallized from hexane-ethyl acetate, then the crystals were collected by filtration to obtain 904 mg of 5-(2-acetylthio-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide as light brown crystals.

reactant | 5-(2-bromo-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 1.00 g | BrC(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)C(N)=O | C19H18BrF3N2O3
reactant | potassium thioacetate | 368 mg | C(C)(=S)[O-].[K+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-(2-acetylthio-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 904 mg | C(C)(=O)SC(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)C(N)=O | C21H21F3N2O4S
